US07449466B2
Production Example 10 was repeated except that 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine was replaced with 1-(3-fluoro-4-methoxyphenyl)-4-phenethylpiperazine (482 mg), and the resulting crude product was purified on TLC (developer, chloroform: methanol=17:1) to provide 2-fluoro-4-(4-phenethylpiperazin-1-yl)phenol (175 mg).

reactant | 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine | COC1=C(C=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)C | C20H26N2O
reactant | 1-(3-fluoro-4-methoxyphenyl)-4-phenethylpiperazine | 482 mg | FC=1C=C(C=CC1OC)N1CCN(CC1)CCC1=CC=CC=C1 | C19H23FN2O
product | 2-fluoro-4-(4-phenethylpiperazin-1-yl)phenol | 175 mg | FC1=C(C=CC(=C1)N1CCN(CC1)CCC1=CC=CC=C1)O | C18H21FN2O
